US09382188B2
E) 3-(2-fluoro-5-methoxyphenyl)-6-methoxy-2-neopentylpyridine
Under an argon atmosphere, a solution of 1-bromo-2,2-dimethylpropane (9.82 mL) in diethyl ether (100 mL) was added dropwise to magnesium (1.72 g) at a slow refluxing rate, and the reaction mixture was heated under reflux further for 1 hr. Under an argon atmosphere, the obtained solution was added dropwise to a solution of 2-chloro-3-(2-fluoro-5-methoxyphenyl)-6-methoxypyridine (3.79 g) and a PEPPSI™-SIPr catalyst (trade name) (970 mg) in THF (70 mL) at room temperature, and the mixture was stirred at room temperature for 15 min. To the reaction mixture was added saturated aqueous ammonium chloride solution at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (3.97 g) as a colorless oil.

reactant | 1-bromo-2,2-dimethylpropane | 9.82 mL | BrCC(C)(C)C | C5H11Br
reactant | magnesium | 1.72 g | [Mg] | Mg
reactant | 2-chloro-3-(2-fluoro-5-methoxyphenyl)-6-methoxypyridine | 3.79 g | ClC1=NC(=CC=C1C1=C(C=CC(=C1)OC)F)OC | C13H11ClFNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
catalyst | SIPr | 970 mg | CC(C)C1=C(C(=CC=C1)C(C)C)N2CC[N+](=[C-]2)C3=C(C=CC=C3C(C)C)C(C)C | C27H38N2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 3-(2-fluoro-5-methoxyphenyl)-6-methoxy-2-neopentylpyridine | 3.97 g | FC1=C(C=C(C=C1)OC)C=1C(=NC(=CC1)OC)CC(C)(C)C | C18H22FNO2
